US07005432B2
To a solution of 3-bromo-5-fluorobenzaldehyde (6.0 g, 29.6 mmol, prepared according to patent WO 0066556) in THF (100 ml) was added dropwise at 0° C. methylmagnesiumchloride (3N in THF, 12 ml). The reaction mixture was stirred for 3 hours at room temperature and then sat. NH4Cl solution was added. The aqueous phase was extracted twice with ethyl acetate. The combined organic layers were washed with water, dried over MgSO4, filtered and the solvent was removed in vacuo. The crude product was purified by chromatography over silica gel to yield 1-(3-bromo-5-fluoro-phenyl)-ethanol (2.9 g, 45%), 1H-NMR (300 MHz, CDCl3): δ=7.31 (s, 1H), 7.14 (d, 1H), 7.04 (d, 1H), 4.82-4.94 (m, 1H), 1.51 (d, 3H).

reactant | 3-bromo-5-fluorobenzaldehyde | 29.6 mmol, 6.0 g | BrC=1C=C(C=O)C=C(C1)F | C7H4BrFO
reactant | methylmagnesiumchloride | 3N, 12 ml | C[Mg]Cl
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(3-bromo-5-fluoro-phenyl)-ethanol | 2.9 g, 45% | BrC=1C=C(C=C(C1)F)C(C)O | C8H8BrFO
